US04863920
3.37 g (10 mmol) of 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to 75° for 16 hours with 1.47 g of cyclopropylacetylene, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 20 mg of copper(I) iodide in 20 ml of diethylamine and 10 ml of ethylene chloride. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate there was obtained a mixture of product and starting material. In order to remove the starting material, the mixture was heated under reflux for 4 hours with 1 ml of 2-methyl-3-butyn-2-ol, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 20 mg of copper(I) iodide in 10 ml of diethylamine and 10 ml of ethylene chloride. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate the byproduct can be separated from the desired product. After crystallization from ethyl acetate there was obtained 7-chloro-3-(cyclopropylethynyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 177°-178°.

reactant | 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 3.37 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1I)C)=O | C12H9ClIN3O
reactant | cyclopropylacetylene | 1.47 g | C1(CC1)C#C | C5H6
solvent | diethylamine | 20 ml | C(C)NCC | C4H11N
solvent | ethylene chloride | 10 ml | C(CCl)Cl | C2H4Cl2
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 20 mg | [Cu]I
product | 7-chloro-3-(cyclopropylethynyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC1CC1)C)=O | C17H14ClN3O
